US07125901B2
A mixture of N-{4-[(E)-2-(4-aminophenyl)ethenyl]-1,3-thiazol-2-yl}acetamide (200 mg), 2-(methylsulfanyl)-4,5-dihydro-1,3-thiazole (103 mg), hydrochrolic acid (0.064 ml) and 2-methoxyethanol (2 ml) was stirred at 120° C. for 8 hours. The reaction mixture was concentrated in vacuo. The residue was purified by silica-gel flash column chromatography with hexane:ethyl acetate (3:1) as an eluent. The crystalline residue was collected and washed with ethyl acetate to give N-(4-{(E)-2-[4-(4,5-dihydro-1,3-thiazol-2-ylamino)phenyl]ethenyl}-1,3-thiazol-2-yl)acetamide (150 mg).

reactant | N-{4-[(E)-2-(4-aminophenyl)ethenyl]-1,3-thiazol-2-yl}acetamide | 200 mg | NC1=CC=C(C=C1)/C=C/C=1N=C(SC1)NC(C)=O | C13H13N3OS
reactant | 2-(methylsulfanyl)-4,5-dihydro-1,3-thiazole | 103 mg | CSC=1SCCN1 | C4H7NS2
solvent | 2-methoxyethanol | 2 ml | COCCO | C3H8O2
product | N-(4-{(E)-2-[4-(4,5-dihydro-1,3-thiazol-2-ylamino)phenyl]ethenyl}-1,3-thiazol-2-yl)acetamide | 150 mg | S1C(=NCC1)NC1=CC=C(C=C1)/C=C/C=1N=C(SC1)NC(C)=O | C16H16N4OS2
